US07557110B2
Synthesis of {5,7-dichloro-6-methyl(pyrazolo[1,5-a]pyrimidin-3-yl)}methanol.
To 5,7-dichloro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbaldehyde (200 mg) in ethanol (20 mL) was added sodium borohydride (70 mg) and the reaction mixture was stirred at room temperature for 15 min. Saturated aqueous NH4Cl (1 mL) was added and the reaction mixture was stirred for a further 10 min then the solvent was removed under reduced pressure. Water and ethyl acetate were added and the product was extracted with ethyl acetate (3×). The combined organic phase was washed (water, saturated aqueous NaCl) and dried (MgSO4) to give the title compound (150 mg); 1H-NMR (400 MHz, CDCl3) d(ppm): 8.22 (1H, s, 2-H), 4.90 (1H, s, CH2OH).

reactant | 5,7-dichloro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 200 mg | ClC1=NC=2N(C(=C1C)Cl)N=CC2C=O | C8H5Cl2N3O
reactant | sodium borohydride | 70 mg | [BH4-].[Na+]
reactant | NH4Cl | 1 mL | [NH4+].[Cl-]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | {5,7-dichloro-6-methyl(pyrazolo[1,5-a]pyrimidin-3-yl)}methanol | 150 mg | ClC1=NC=2N(C(=C1C)Cl)N=CC2CO | C8H7Cl2N3O
